* C:\Users\noursec\Documents\personal projects\wavefolder\analog_wavefolder\simulation\cascaded_wavefolder.asc
V1 vin 0 SINE(0 5 1k)
R1 clip1 VoutBuffer 10k
D1 clip1 0 1N4148
D2 0 clip1 1N4148
R2 N001 VoutBuffer 10k
R3 N002 N001 10k
R5 N006 clip1 10k
R4 N003 N002 10k
R19 vout1 N003 10k
R7 clip2 vout1 10k
D3 clip2 0 1N4148
D4 0 clip2 1N4148
R8 N008 vout1 10k
R9 N009 N008 10k
R10 N011 clip2 10k
R12 N010 N009 10k
R13 vout2 N010 10k
R15 clip3 vout2 10k
D5 clip3 0 1N4148
D6 0 clip3 1N4148
R16 N013 vout2 10k
R17 N014 N013 10k
R18 N016 clip3 10k
R22 N015 N014 10k
R23 vout3 N015 10k
XU2 N006 N001 9v -9v N002 NE5532
XU3 0 N003 9v -9v vout1 NE5532
XU4 N011 N008 9v -9v N009 NE5532
XU5 0 N010 9v -9v vout2 NE5532
XU6 N016 N013 9v -9v N014 NE5532
XU7 0 N015 9v -9v vout3 NE5532
V2 9v 0 9
V3 0 -9v 9
R14 N004 Vin 100k
C1 N005 N004 0.1µ
R20 N005 0 1Meg
XU8 N005 VoutBuffer 9v -9v VoutBuffer TL071
R24 clip4 vout3 10k
D7 clip4 0 1N4148
D8 0 clip4 1N4148
R25 N018 vout3 10k
R26 N019 N018 10k
R27 N021 clip4 10k
R29 N020 N019 10k
R30 vout4 N020 10k
XU1 N021 N018 9v -9v N019 NE5532
XU9 0 N020 9v -9v vout4 NE5532
.model D D
.lib C:\Users\noursec\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0.01
.lib opamp.sub
* for R1,7,15, pick smallest value so current requirement for power supply, opamp, diode is met
* use 1k+50k log pot\nlog pot for fine adjustment at low value
* input\nklon buffer\nHPF\nfold stages\nLPF\nclean blend
.lib ..\sym\EXTRA\AudioOpamp\TI\NE553x.lib
.lib ..\sym\EXTRA\AudioOpamp\TI\TL071.301
.backanno
.end
